US06469176B1
1-Methyl-4-(3-(4,5-dihydroisoxazol-3-yl)-2-methyl-4-methyl-sulfonylbenzoyl)-5-hydroxypyrazole (Process Step g)—Variant B)
2 l of 1,4-dioxane, 250 g (0.77 mol) of 3-(3-bromo-2-methyl-6-methylsulfonylphenyl)-4,5-dihydroisoxazole, 77 g (0.77 mol) of 1-methyl-5-hydroxypyrazole, 269 g (1.93 mol) of potassium carbonate, 197 g (1.93 mol) of triethylamine, 1.39 g (0.0077 mol) of palladium(II) chloride and 4.12 g (0.0154 mol) of triphenylphosphine were added to a 3.5 l autoclave. The autoclave was washed twice with nitrogen, the mixture was heated with stirring to 130° C. and a carbon monoxide pressure of 6 kg/cm2 was applied. By continuous addition of carbon monoxide, the carbon monoxide pressure was kept constant at 6 kg/cm2 and the mixture was stirred at 130° C. for 36 h. The mixture was then admixed with 1 l of demineralized water and the precipitated palladium was filtered off over a blue-band filter (pore size 2 to 3 μ) and washed with water. Dioxane, triethylamine and some of the water were then distilled off in one step (150 mbar or atmospheric pressure). The aqueous phase was adjusted to pH 2.5 using 20% strength sulfuric acid and stirred at 5° C. for 12 h, while the pH was being readjusted. The precipitate was filtered off, washed three times with water and dried at 70° C. under reduced pressure. This gave 227 g of product (calc. 100%).

reactant | 3-(3-bromo-2-methyl-6-methylsulfonylphenyl)-4,5-dihydroisoxazole | 0.77 mol, 250 g | BrC=1C(=C(C(=CC1)S(=O)(=O)C)C1=NOCC1)C | C11H12BrNO3S
reactant | 1-methyl-5-hydroxypyrazole | 0.77 mol, 77 g | CN1N=CC=C1O | C4H6N2O
reactant | potassium carbonate | 1.93 mol, 269 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 1.93 mol, 197 g | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.0154 mol, 4.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,4-dioxane | 2 l | O1CCOCC1 | C4H8O2
catalyst | palladium(II) chloride | 0.0077 mol, 1.39 g | [Pd](Cl)Cl
product | 1-Methyl-4-(3-(4,5-dihydroisoxazol-3-yl)-2-methyl-4-methyl-sulfonylbenzoyl)-5-hydroxypyrazole | CN1N=CC(=C1O)C(C=1C(=C(C(C(C1)=S(=O)=O)C)C1=NOCC1)C)=O | C16H17N3O5S
